US05112385
1-Allyl-3-(2,5-dichlorophenoxy) urea (Compound No. 261)
5.34 g (30.0 mmoles) of 2,5-dichlorophenoxyamine was dissolved in 50 ml of toluene, and then 2.74 g (33.0 mmoles) of allyl isocyanate was added. The mixture was stirred at a temperature of from 25° to 30° C. for 12 hours. The crystals precipitated in the reaction solution were collected by filtration and washed with hexane, whereby, 3.96 g of the desired product was obtained as light yellow crystals (yield: 51%).

reactant | 2,5-dichlorophenoxyamine | 30.0 mmoles, 5.34 g | ClC1=C(ON)C=C(C=C1)Cl | C6H5Cl2NO
reactant | allyl isocyanate | 33.0 mmoles, 2.74 g | C(C=C)N=C=O | C4H5NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Allyl-3-(2,5-dichlorophenoxy) urea | 3.96 g | C(C=C)NC(=O)NOC1=C(C=CC(=C1)Cl)Cl | C10H10Cl2N2O2
